US04119667
Preparation of 3,5-Dichloro-N-benzylidene aniline
To a reaction flask, equipped with a Dean-Stark trap, is added 3,5-dichloroaniline (16.2 g., 0.10 mole), benzaldehyde (10.6 g., 0.10 mole), p-toluenesulfonic acid monohydrate (0.2 g.), and toluene (100 ml.). The reaction mixture is then warmed to reflux and the water (1.65 ml.) collected by azeotroping. The cooled reaction mixture is treated with charcoal and the filtrate reduced in vacuo to give an amber oil, that crystallizes on standing to give 24.6 g. of product, which is recrystallized from pentane to give 18.5 g. of yellow solid, m.p. 52°-53° C.

reactant | 3,5-dichloroaniline | 0.10 mole, 16.2 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | benzaldehyde | 0.10 mole, 10.6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-toluenesulfonic acid monohydrate | 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | charcoal | C | CH4
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3,5-Dichloro-N-benzylidene aniline | ClC=1C=C(N=CC2=CC=CC=C2)C=C(C1)Cl | C13H9Cl2N
